US05143918
A stirred solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (3.25 g, 4.1 mmol) in MeCl2 (17 ml) containing imidazole (2.55 g, 48.7 mmol) was cooled to 0° C. and treated with triisopropylsilyl trifluoromethanesulfonate (7.41 g, 24.2 mmol). The reaction mixture was allowed to warm to RT and stirred for 16 hrs. The reaction mixture was diluted with MeCl2 (20 ml) and n-hexane (40 ml). The resultant suspension was filtered and the filtrate was passed over SiO2. Elution with n-hexane/ethyl acetate (3:1) yielded 17-ethyl-1,14-dihydroxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (3.35 g, 86.3%). Mass Spec: C49H83NO12Si(906.29) FAB:928(M+Na), 756, 678, 511, 266.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 4.1 mmol, 3.25 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | imidazole | 48.7 mmol, 2.55 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl trifluoromethanesulfonate | 24.2 mmol, 7.41 g | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
solvent | MeCl2 | 17 ml | C(Cl)Cl | CH2Cl2
solvent | MeCl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | 40 ml | CCCCCC | C6H14
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 3.35 g, 86.3% | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C(C)C)(C(C)C)C(C)C)OC)C)C)O)=O | C52H89NO12Si
